US05334681
1. Synthesis of PEO (MWN 6000) di(urethane-methacrylate)
59.95 g-(0.010 m) α,β-di(1-methyl-aminoethyl) poly-(ethylene oxide-co-propyleneoxide) of MW 5995 (Jeffamine-ED 5000, TEXACO Corp.) and 59.95 g of anhydrous methyl propyl ketone are charged into a 3-necked round bottomed flask equipped with a stirrer, nitrogen inlet, condenser, thermometer and dropping funnel. The solution is stirred at room temperature under dry nitrogen. Then 3.10 g (0.020 mole) of 2-isocyanotoethyl methacrylate (MW 155) dissolved in 3.1 g of anhydrous methyl propyl ketone are added slowly from the dropping funnel. The mildly exothermic reaction is maintained at 35° C. and below by water bath cooling for 1 hour at which time an IR analysis shows the reaction to be complete.

reactant | Jeffamine | CC(COCC(C)OCC(C)OCC(C)N)N | C12H28N2O3
reactant | methacrylate | 0.020 mole, 3.10 g | C(C(=C)C)(=O)[O-]
reactant | methyl propyl ketone | 3.1 g | C(CC)C(=O)C | C5H10O
reactant | methyl propyl ketone | 59.95 g | C(CC)C(=O)C | C5H10O
product | urethane methacrylate | NC(=O)OCC.C(C(=C)C)(=O)[O-] | InChI=1S/C4H6O2.C3H7NO2/c1-3(2)4(5)6;1-2-6-3(4)5/h1H2,2H3,(H,5,6);2H2,1H3,(H2,4,5)/p-1
